US04016148
63.2 g of [(N-benzyloxycarbonyl-L-alanyl)amino]-methylphosphonic acid in a mixture of 600 ml of methanol and 20 ml of concentrated hydrochloric acid were hydrogenated at room temperature and atmospheric pressure in the presence of 6.0 g of 10% palladium-on-charcoal catalyst until absorption of hydrogen ceased. The catalyst was filtered off and washed with methanol. The filtrate was treated with 30 ml of propylene oxide and the mixture stored overnight in a refrigerator. The solid was filtered off, washed with methanol and ether and dried over phosphorus pentoxide in vacuo. The solid was taken up in 80 ml of boiling water, filtered and treated with 120 ml of ethanol. The mixture was cooled and then refrigerated overnight. The solid was filtered off, washed well with ethanol and dried over phosphorus pentoxide in vacuo. There were obtained 31.85 g of (L-alanylamino) -methylphosphonic acid of melting point 293°-294° C (decomposition); [α]D20 = 33.8° (c =1% in water).

reactant | [(N-benzyloxycarbonyl-L-alanyl)amino]-methylphosphonic acid | 63.2 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)NOP(O)(=O)C | C12H17N2O6P
solvent | methanol | 600 ml | CO | CH4O
solvent | hydrochloric acid | 20 ml | Cl | ClH
product | (L-alanylamino) -methylphosphonic acid | 31.85 g | N[C@@H](C)C(=O)NOP(O)(=O)C | C4H11N2O4P
